US08304419B2
A 1M solution of TBAF (1.2 mL, 1.2 mmol) was neutralized with a drop of HOAc and added to a solution of 4-chloro-5-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)-N-methyl-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-2-sulfonamide in THF (3 mL). The reaction mixture was stirred for 2 h at RT. Sat'd NaHCO3 was added and the aqueous phase was extracted with CH2Cl2. The combined organic phase was dried (Na2SO4), filtered, and evaporated to give 4-chloro-5-(hydroxymethyl)-N-methyl-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-2-sulfonamide as a light yellow oil that was used without purification and assumed to be quantitative.

reactant | TBAF | 1.2 mmol, 1.2 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | HOAc | CC(=O)O | C2H4O2
reactant | 4-chloro-5-({[(1,1-dimethylethyl)(dimethyl)silyl]oxy}methyl)-N-methyl-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-2-sulfonamide | ClC=1N=C(N(C1CO[Si](C)(C)C(C)(C)C)COCC[Si](C)(C)C)S(=O)(=O)NC | C17H36ClN3O4SSi2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | 4-chloro-5-(hydroxymethyl)-N-methyl-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-2-sulfonamide | ClC=1N=C(N(C1CO)COCC[Si](C)(C)C)S(=O)(=O)NC | C11H22ClN3O4SSi
